US05296495
A mixture of 4-tert-butyl-2-[5-(2-cyanomethylphenylmethoxy)benzofuran-2-yl]thiazole (0.40 g), sodium azide (0.58 g) and ammonium chloride (0.66 g) in N,N-dimethylformamide (4 ml) was stirred at 110° C. for 8 hours. After being cooled, the mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with chloroform, successively with a mixture of chloroform and methanol (10:1). The fractions containing object compound were combined and concentrated under reduced pressure to give 5-{2-(2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxymethyl]phenylmethyl}-1H-tetrazole (0.21 g).

reactant | 4-tert-butyl-2-[5-(2-cyanomethylphenylmethoxy)benzofuran-2-yl]thiazole | 0.40 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CC#N | C24H22N2O2S
reactant | sodium azide | 0.58 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.66 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 5-{2-(2-(4-tert-butylthiazol-2-yl)benzofuran-5-yloxymethyl]phenylmethyl}-1H-tetrazole | 0.21 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CC2=NN=NN2 | C24H23N5O2S
